* C:\Users\lunaa\Documents\GitHub\E344\GitRepo\LTSpice\Ass2_LTSpice_Template\LTSpice - Template\E344_Ass2_US2A.asc
V2 N001 0 5
RSense5V N001 5V 1µ
XU4 N004 N002 5V 0 range_analog LTC6078
V12 ultrasonic_out P001 PULSE(0 3.3 0 0 0 6000u 60m 33)
V5 P001 P002 PULSE(0 3.3 2 0 0 500u 60m 33)
V6 P002 P003 PULSE(0 3.3 4 0 0 6000u 60m 33)
V3 P003 0 PULSE(0 3.3 6 0 0 3000u 60m 33)
R2 range_analog 0 100k
R1 N003 ultrasonic_out 120k
C1 N003 0 1µ
R3 N002 0 200
R4 range_analog N002 1.4k
C2 range_analog N002 10µ
R5 N004 N003 120k
C3 N004 0 1µ
.tran 0 {transtop} 0
.include A2cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name\n  * Use only the provided 5V for power
* Config file:
* Analysis setup:
* =============================\nREPLACE WITH YOUR DETAILS\nD. Mullah.,  22898220\n=============================
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* ===============================================\nYour circuit goes here - conntect inputs, outputs and supply.\n===============================================
* PLEASE WAIT FOR YOUR SIMULATION TO FINISH BEFORE SUBMITTING.
* Signal from ultrasonic sensor (input to your circuit)
* 5V supply to your circuit
* Analogue range signal (output from your circuit)
.lib LTC5.lib
.backanno
.end
