* C:\Users\lunaa\Documents\GitHub\E344\GitRepo\LTSpice\Ass2_LTSpice_Template\LTSpice - Template\E344_Ass2_US2A.asc
V2 N001 0 5
RSense5V N001 5V 1µ
XU4 N006 N004 5V 0 N002 LTC6078
V12 ultrasonic_out P001 PULSE(0 3.3 0 0 0 6000u 60m 33)
V5 P001 P002 PULSE(0 3.3 2 0 0 500u 60m 33)
V6 P002 P003 PULSE(0 3.3 4 0 0 6000u 60m 33)
V3 P003 0 PULSE(0 3.3 6 0 0 3000u 60m 33)
R2 range_analog 0 100k
R1 N005 ultrasonic_out 82k
C1 N005 N002 1µ
R3 N004 0 800
R4 N002 N004 380
C2 range_analog N003 22µ
R5 N006 N005 100k
C3 N006 0 1µ
XU1 N002 N003 5V 0 range_analog LTC6078
R6 range_analog N003 1.1k
R7 N003 0 220
C4 N002 N004 22µ
.tran 0 {transtop} 0
.include A2cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name\n  * Use only the provided 5V for power
* Config file:
* Analysis setup:
* =============================\nREPLACE WITH YOUR DETAILS\nD. Mullah.,  22898220\n=============================
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* ===============================================\nYour circuit goes here - conntect inputs, outputs and supply.\n===============================================
* PLEASE WAIT FOR YOUR SIMULATION TO FINISH BEFORE SUBMITTING.
* Signal from ultrasonic sensor (input to your circuit)
* 5V supply to your circuit
* Analogue range signal (output from your circuit)
.lib LTC5.lib
.backanno
.end
